US08710242B2
Ethyl 6-chloro-2-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indole-5-carboxylate
A solution of the crude 6-chloro-5-(ethoxycarbonyl)-1H-indole-2-carboxylic acid product (1.9 g) and 2,2,2-trifluoro-1-[3-trifluoromethylphenyl]ethanamine (1.12 g, 4.60 mmol) in N,N-dimethylformamide (15 ml) was admixed with 4-(4,6-dimethoxy[1,3,5]triazin-2-yl)-4-methylmorpholinium chloride hydrate (953 ng, 4.60 mmol) and stirred at room temperature for 4 days. The reaction solution was admixed with hydrochloric acid (1 M) and extracted with ethyl acetate. The organic phase was washed with sat, sodium hydrogencarbonate solution and saturated sodium chloride solution, dried over sodium sulphate, filtered and concentrated to dryness under reduced pressure. Column chromatography purification on silica gel with cyclohexane/ethyl acetate as the eluent (gradient from 10% ethyl acetate to 25% ethyl acetate).

reactant | 6-chloro-5-(ethoxycarbonyl)-1H-indole-2-carboxylic acid | 1.9 g | ClC1=C(C=C2C=C(NC2=C1)C(=O)O)C(=O)OCC | C12H10ClNO4
reactant | 2,2,2-trifluoro-1-[3-trifluoromethylphenyl]ethanamine | 4.60 mmol, 1.12 g | FC(C(N)C1=CC(=CC=C1)C(F)(F)F)(F)F | C9H7F6N
reactant | 4-(4,6-dimethoxy[1,3,5]triazin-2-yl)-4-methylmorpholinium chloride hydrate | 4.60 mmol, 953 ng | O.[Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | Ethyl 6-chloro-2-({2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}carbamoyl)-1H-indole-5-carboxylate | ClC1=C(C=C2C=C(NC2=C1)C(NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)=O)C(=O)OCC | C21H15ClF6N2O3
